US07396847B2
N-[((5S)-3-{2-Fluoro-4′-[5-(hydroxymethyl)-4,5-dihydroisoxazol-3-yl]-1,1′-biphenyl-4-yl}-2-oxo-1,3-oxazolidin-5-yl)methyl]acetamide
N-[((5S)-3-{4′-[5-({[tert-Butyl(dimethyl)silyl]oxy}methyl)-4,5-dihydroisoxazol-3-yl]-2-fluoro-1,1′-biphenyl-4-yl}-2-oxo-1,3-oxazolidin-5-yl)methyl]acetamide (164 mg, 0.3 mmol) was dissolved in tetrahydrofuran (5 ml) at room temperature. A solution of tetrabutylammonium fluoride in tetrahydrofuran (1M; 0.3 ml, 0.3 mmol) was added and the reaction mixture stirred for 30 minutes. The solvent was removed in vacuo then dichloromethane (2 ml) added. Purification by chromatography (SiO2 10 g bond elut; 0 to 6% methanol/dichloromethane) yielded a white solid. This was washed with water (50 ml) to yield 37.9 mg (29%) of the desired compound.

reactant | N-[((5S)-3-{4′-[5-({[tert-Butyl(dimethyl)silyl]oxy}methyl)-4,5-dihydroisoxazol-3-yl]-2-fluoro-1,1′-biphenyl-4-yl}-2-oxo-1,3-oxazolidin-5-yl)methyl]acetamide | 0.3 mmol, 164 mg | [Si](C)(C)(C(C)(C)C)OCC1CC(=NO1)C1=CC=C(C=C1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F | C28H36FN3O5Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.3 mmol, 1M, 0.3 ml | O1CCCC1 | C4H8O
product | N-[((5S)-3-{2-Fluoro-4′-[5-(hydroxymethyl)-4,5-dihydroisoxazol-3-yl]-1,1′-biphenyl-4-yl}-2-oxo-1,3-oxazolidin-5-yl)methyl]acetamide | 37.9 mg, 29% | FC1=C(C=CC(=C1)N1C(O[C@H](C1)CNC(C)=O)=O)C1=CC=C(C=C1)C1=NOC(C1)CO | C22H22FN3O5
